US06103762
(c) 3-(4,4-dimethylchroman-8-yl)prop-1-yne
280 mg (11.5 mmol) of magnesium, activated with 1 drop of dibromoethane, are introduced into a three-necked flask under argon. A solution of 3.00 g (10.4 mmol) of 4,4-dimethyl-8-iodochroman in 15 ml of ethyl ether is added dropwise, so as to maintain the reflux of the solvent, and the reaction mixture is stirred at 35° C. for 15 minutes. It is subsequently cooled to -5° C., 40 mg (0.2 mmol) of CuI are added and a solution composed of 1.24 g (17.7 mmol) of methoxyallene in 5 ml of ethyl ether is introduced dropwise. The mixture is stirred for one hour at -5° C., allowed to return to room temperature and stirred for two hours. The reaction mixture is poured onto a saturated ammonium chloride solution and extracted with ethyl acetate and the organic phase is separated by settling, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a silica column eluted with heptane. After evaporating the solvents, 1.30 g (65%) of the expected compound are collected in the form of a yellow oil.

reactant | magnesium | 11.5 mmol, 280 mg | [Mg] | Mg
reactant | 4,4-dimethyl-8-iodochroman | 10.4 mmol, 3.00 g | CC1(CCOC2=C(C=CC=C12)I)C | C11H13IO
reactant | methoxyallene | 17.7 mmol, 1.24 g | COC=C=C | C4H6O
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | dibromoethane | 1 drop | BrC(C)Br | C2H4Br2
solvent | ethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 5 ml | C(C)OCC | C4H10O
catalyst | CuI | 0.2 mmol, 40 mg | [Cu]I
product | 3-(4,4-dimethylchroman-8-yl)prop-1-yne | CC1(CCOC2=C(C=CC=C12)CC#C)C | C14H16O
